US06831081B2
N-(4-Chlorobenzyl)-2-(((2R*)-2-((S*)-hydroxy(phenyl)methyl)pyrrolidin-1-yl)-methyl)-3,7-dimethyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
Analogous to the procedures described in Example 2, N-(4-chlorobenzyl)-2-(chloromethyl)-3,7-dimethyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide (Preparation 30) is treated with 2-(hydroxy(phenyl)methyl)pyrrolidine (Preparations 2) to afford the title compound.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,7-dimethyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3C)CCl)=O)C=C1 | C18H16Cl2N2O2S
reactant | 2-(hydroxy(phenyl)methyl)pyrrolidine | OC(C1NCCC1)C1=CC=CC=C1 | C11H15NO
product | N-(4-Chlorobenzyl)-2-(((2R*)-2-((S*)-hydroxy(phenyl)methyl)pyrrolidin-1-yl)-methyl)-3,7-dimethyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3C)CN3[C@H](CCC3)[C@H](C3=CC=CC=C3)O)=O)C=C1 | C29H30ClN3O3S
